US09422312B2
Step 3: N-({4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}(dimethylamino)oxo-λ6-sulfanylidene)-2,2,2-trifluoroacetamide
The title compound is prepared from (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol and N-[(4-bromophenyl)-(dimethylamino)oxo-λ6-sulfanylidene]-2,2,2-trifluoroacetamide following a procedure analogous to that described for Intermediate 3 (Step 3) using 1,4-dioxane as a solvent. LC (method 1): tR=1.22 min; Mass spectrum (ESI+): m/z=782 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C30H41BClN3O7Si
reactant | N-[(4-bromophenyl)-(dimethylamino)oxo-λ6-sulfanylidene]-2,2,2-trifluoroacetamide | BrC1=CC=C(C=C1)S(=NC(C(F)(F)F)=O)(=O)N(C)C | C10H10BrF3N2O2S
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-({4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}(dimethylamino)oxo-λ6-sulfanylidene)-2,2,2-trifluoroacetamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=NC(C(F)(F)F)=O)(=O)N(C)C)N2COCC[Si](C)(C)C | C34H39ClF3N5O7SSi
